US07285563B2
6,7,8,9-Tetrahydro-5H-benzo[α][7]annulene-7-carboxylic acid
A solution of 7-(nitromethyl)-6,7,8,9-tetrahydro-5H-benzo[α][7]annulene (Description 27; 96 g, 0.47 mol) in THF (550 ml) was cooled to −18° C. and potassium tert-butoxide (1.6M in THF, 263 ml, 0.42 mol) was added dropwise over 30 minutes while maintaining the temperature between −15 and −5° C. After stirring for 10 minutes a solution of KMnO4 (111 g, 0.7 mol) in water (900 ml) was added dropwise over 75 minutes while maintaining the temperature between −3 and 3° C. The mixture was stirred at 0° C. until GC analysis indicated the reaction was complete. tert-Butyl methyl ether (500 ml) was added followed by saturated aqueous NaHSO3 (1000 ml) and the resulting mixture was stirred for 30 minutes until a milky white slurry formed. This slurry was filtered, washed with a solution of 3N NaOH (50 ml) and water (100 ml) followed by tert-butyl methyl ether (100 ml). The pH of the filtrate was adjusted from 8.6 to 12.5 by the addition of 3N NaOH (100 ml) and 6N NaOH (40 ml). The phases were separated and to the aqueous phase was added tert-butyl methyl ether (500 ml). The pH of the resulting mixture was adjusted to 2 with 6N HCl (200 ml). The phases were again separated and the aqueous phase was extracted with tert-butyl methyl ether (2×300 ml). The organic phases were combined, dried over MgSO4, filtered and evaporated to give the title compound (73 g, 89%), as an off white solid.

reactant | 7-(nitromethyl)-6,7,8,9-tetrahydro-5H-benzo[α][7]annulene | 0.47 mol, 96 g | [N+](=O)([O-])CC1CCC2=C(CC1)C=CC=C2 | C12H15NO2
reactant | potassium tert-butoxide | 0.42 mol, 1.6M, 263 ml | CC(C)([O-])C.[K+]
reactant | KMnO4 | 0.7 mol, 111 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | NaHSO3 | 1000 ml | OS(=O)[O-].[Na+]
reactant | THF | 550 ml | C1CCOC1 | C4H8O
solvent | water | 900 ml | O | H2O
solvent | tert-Butyl methyl ether | 500 ml | COC(C)(C)C | C5H12O
product | 6,7,8,9-Tetrahydro-5H-benzo[α][7]annulene-7-carboxylic acid | 73 g, 89% | C1=CC=CC2=C1CCC(CC2)C(=O)O | C12H14O2
